US08871756B2
2-Chloro-N-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]acetamide
To the solution of 2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-amine (500 mg, 1.73 mmol) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (0.52 mL, 3.48 mmol) followed by chloroacetyl chloride (0.21 mL, 2.64 mmol) at room temperature. The resulting solution was heated with stirring at 70° C. for 2 hours under nitrogen. After cooled to room temperature, the reaction was diluted with ethyl acetate (50 mL), and then washed with water (50 mL×3). The organic phase was dried over sodium sulfate and concentrated under reduced pressure to give a residue which was purified by column chromatography on silica gel (ethyl acetate/petroleum ether, 1:4) to give 140 mg of product as an off-white solid (yield was 22.1%). MS obsd. (ESI+) [(M+H)+] 366.

reactant | 2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-amine | 1.73 mmol, 500 mg | C1N(CCCC2=C1C=CC=C2)C2=NC1=CC=CC=C1C(=C2)N | C19H19N3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.48 mmol, 0.52 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | chloroacetyl chloride | 2.64 mmol, 0.21 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-N-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]acetamide | 140 mg, yield was 22.1% | ClCC(=O)NC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2 | C21H20ClN3O
